US09278950B2
Step 3. Benzyl [(3S)-1-(3-amino-5-cyanopyridin-4-yl)piperidin-3-yl]carbamate
A mixture of benzyl [(3S)-1-(3-cyano-5-nitropyridin-4-yl)piperidin-3-yl]carbamate (0.065 g, 0.17 mmol), iron (0.084 g, 1.5 mmol), and ammonium chloride (0.091 g, 1.7 mmol) in EtOH (2 mL) and water (0.2 mL) was stirred at 85° C. for 15 min. The crude reaction mixture was filtered through a pad of diatomaceous earth and the inorganics were washed thoroughly with EtOH. The filtrate was concentrated under reduced pressure and the residue was partitioned between water and EtOAc. The organic fraction was washed with water, brine, dried over Na2SO4, filtered, and concentrated under reduced pressure to afford the sub-title compound (0.055 g). LCMS (ESI) calc. for C19H22N5O2 m/z=352.2 [M+H]+. found 352.1.

reactant | benzyl [(3S)-1-(3-cyano-5-nitropyridin-4-yl)piperidin-3-yl]carbamate | 0.17 mmol, 0.065 g | C(#N)C=1C=NC=C(C1N1C[C@H](CCC1)NC(OCC1=CC=CC=C1)=O)[N+](=O)[O-] | C19H19N5O4
reactant | ammonium chloride | 1.7 mmol, 0.091 g | [Cl-].[NH4+]
solvent | EtOH | 2 mL | CCO | C2H6O
solvent | water | 0.2 mL | O | H2O
catalyst | iron | 1.5 mmol, 0.084 g | [Fe] | Fe
product | Benzyl [(3S)-1-(3-amino-5-cyanopyridin-4-yl)piperidin-3-yl]carbamate | 0.055 g | NC=1C=NC=C(C1N1C[C@H](CCC1)NC(OCC1=CC=CC=C1)=O)C#N | C19H21N5O2
